US04443448
In a corresponding manner was made 3-bromo-6-fluoro-1-indanone melting at 62-64 degrees Centigrade, and 3-bromo-5-fluoro-1-indanone melting at 44-47 degrees Centigrade. To a solution of 113 grams of 3-bromo-6-chloro-1-indanone in 1400 milliliters of dry benzene were added over 10 minutes 230 grams of aluminiumchloride in portions. The reaction mixture was then refluxed for 3 hours, cooled and treated with crushed ice and concentrated hydrochloric acid. The organic phase was separated and extracted with 1 N sodium hydroxide and water, dried over anhydrous magnesium sulfate, treated with active carbon and concentrated in vacuo. The residue was taken up to 450 milliliters of hot n-hexane, cooled and filtered to give 96 grams of 3-phenyl-6-chloro-1-indanone melting at 84-92 degrees Centigrade.

reactant | 3-bromo-6-fluoro-1-indanone | BrC1CC(C2=CC(=CC=C12)F)=O | C9H6BrFO
reactant | 3-bromo-5-fluoro-1-indanone | BrC1CC(C2=CC=C(C=C12)F)=O | C9H6BrFO
reactant | 3-bromo-6-chloro-1-indanone | 113 grams | BrC1CC(C2=CC(=CC=C12)Cl)=O | C9H6BrClO
reactant | aluminiumchloride | 230 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 1400 milliliters | C1=CC=CC=C1 | C6H6
product | 3-phenyl-6-chloro-1-indanone | 96 grams | C1(=CC=CC=C1)C1CC(C2=CC(=CC=C12)Cl)=O | C15H11ClO
